US04243805
3-fluoro-10-(4-[2-(4-fluorophenoxy)ethyl]piperazino)-8-isopropyl-10,11-dihydrodibenzo(b,f)thiepin
A solution of 2.6 g of 3-fluoro-8-isopropyl-10-piperazino-10,11-dihydrodibenzo(b,f)thiepin in 15 ml of chloroform was stirred and treated dropwise with 1.7 g of 4-fluorophenoxyacetyl chloride and the mixture allowed to stand for 12 hours. It was then diluted with chloroform, washed with a 5% sodium hydroxide solution and water, dried with potassium carbonate, filtered and evaporated. The oily residue (3.7 g, 100%) was the crude 3-fluoro-10-[4-(4-fluorophenoxyacetyl)-piperazino]-8-isopropyl-10,11-dihydrodibenzo(b,f)thiepin which was used in this state for further work.

reactant | 3-fluoro-8-isopropyl-10-piperazino-10,11-dihydrodibenzo(b,f)thiepin | 2.6 g | FC=1C=CC2=C(SC3=C(C(C2)N2CCNCC2)C=C(C=C3)C(C)C)C1 | C21H25FN2S
reactant | 4-fluorophenoxyacetyl chloride | 1.7 g | FC1=CC=C(OCC(=O)Cl)C=C1 | C8H6ClFO2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-fluoro-10-(4-[2-(4-fluorophenoxy)ethyl]piperazino)-8-isopropyl-10,11-dihydrodibenzo(b,f)thiepin | FC=1C=CC2=C(SC3=C(C(C2)N2CCN(CC2)CCOC2=CC=C(C=C2)F)C=C(C=C3)C(C)C)C1 | C29H32F2N2OS
